US06992087B2
Preparation of 6-methoxyindan-1-amine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 8-methoxy-3,4-dihydronaphthalen-1(2H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.72, 2.54, 2.74, 2.90, 3.83, 4.34, 6.78, 6.91, 7.13; MS (FAB) m/z (rel. intensity) 164 (MH+, 17), 308 (8), 164 (17), 163 (7), 162 (19), 148 (18), 147 (99), 146 (18), 145 (9), 121 (11), 115 (8). HRMS (FAB) calcd for C10H13NO+H 164.1075, found 164.1071.

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 8-methoxy-3,4-dihydronaphthalen-1(2H)-one | COC=1C=CC=C2CCCC(C12)=O | C11H12O2
product | 6-methoxyindan-1-amine | COC1=CC=C2CCC(C2=C1)N | C10H13NO
